US04005218
20 parts of iron-powder are added to 190 parts of ammonium chloride solution 0.78N at reflux temperature. Then there is added dropwise a solution of 20 parts of 2,4-dichloro-α-(4-nitrophenyl)benzeneacetonitrile in 180 parts of methylbenzene. Upon completion, stirring is continued overnight at reflux. The reaction mixture is cooled at 60° C and filtered over hyflo. The filter-cake is washed with tetrahydrofuran. The filtrate is dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2,2'-oxybispropane, methanol and 2-propanol. The salt is filtered off and dried, yielding α-(4-aminophenyl)-2,4-dichlorobenzeneacetonitrile hydrochloride; mp. 207.2° C.

reactant | ammonium chloride | 0.78N | [Cl-].[NH4+]
reactant | 2,4-dichloro-α-(4-nitrophenyl)benzeneacetonitrile | ClC1=C(C=CC(=C1)Cl)C(C#N)C1=CC=C(C=C1)[N+](=O)[O-] | C14H8Cl2N2O2
catalyst | iron | [Fe] | Fe
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | α-(4-aminophenyl)-2,4-dichlorobenzeneacetonitrile hydrochloride | Cl.NC1=CC=C(C=C1)C(C#N)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C14H10Cl2N2.ClH/c15-10-3-6-12(14(16)7-10)13(8-17)9-1-4-11(18)5-2-9;/h1-7,13H,18H2;1H
